US08791107B2
2-(7-fluoro-3-methyl-1H-indol-4-yl)-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 2 using 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x9, 66.0 mg, 0.167 mmol), 7-fluoro-3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (92 mg, 0.334 mmol) and PdCl2(dppf) (9.79 mg, 0.013 mmol) in dioxane (1 mL) and aqueous saturated NaHCO3 (0.2 mL). 1H NMR (400 MHz, DMSO-d6) δ 1.93-2.07 (m, 3H), 2.89-2.99 (m, 1H), 3.21-3.34 (m, 6H), 3.47-3.49 (m, 1H), 3.67-3.72 (m, 1H), 3.86-3.99 (m, 2H), 4.35-4.44 (m, 1H), 4.57-4.64 (m, 2H), 6.83-6.91 (m, 1H), 7.02-7.08 (m, 1H), 7.11-7.17 (m, 1H), 7.58-7.66 (m, 3H), 7.87-7.96 (m, 2H), 11.23-11.30 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C26H26FN5O3S, 508.17. found 508.5.

reactant | 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.167 mmol, 66.0 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
reactant | 7-fluoro-3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.334 mmol, 92 mg | FC=1C=CC(=C2C(=CNC12)C)B1OC(C(O1)(C)C)(C)C | C15H19BFNO2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.2 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 0.013 mmol, 9.79 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(7-fluoro-3-methyl-1H-indol-4-yl)-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | FC=1C=CC(=C2C(=CNC12)C)C1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C26H26FN5O3S
